US07601736B2
2H-[2,7]naphtyridine-1-on (200 mg, 1.368 mmol) was suspended in 6 mL of anhydrous DMF, and added with NaH (60% dispersion in mineral oil, 82 mg, 2.053 mmol) while stirring it at 0° C. under the nitrogen atmosphere. The mixture was cooled down at room temperature for about 2 hours, dropwisely added with benzyl chloride (0.19 mL, 1.642 mmol) at 0° C. and then stirred at room temperature for about 2 hours. The mixture was added with 5 mL of a saturated solution of ammonium chloride and 5 mL of distilled water, while stirring it at 0° C., and extracted twice with 30 mL of EtOAc. The resulting organic layer was washed with a saturated solution of sodium chloride, dried with anhydrous sodium sulfate, filtered and then concentrated. A silica gel column chromatography (5% MeOH/MC) was performed on thus obtained concentrated residue and obtained 288 mg (89%) of 2-benzyl-2H-[2,7]naphtyridine-1-on in white solid.

reactant | NaH | 2.053 mmol, 82 mg | [H-].[Na+]
reactant | benzyl chloride | 1.642 mmol, 0.19 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 5 mL | O | H2O
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-benzyl-2H-[2,7]naphtyridine-1-on | 288 mg, 89% | C(C1=CC=CC=C1)N1C(C2=CN=CC=C2C=C1)=O | C15H12N2O
